Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Vomiting, diarrhea
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
Mr. ___ is a ___ male with a history of CAD and MI ___ 
s/p 3x stents, DM, and recent choledocholithiasis s/p stent 
placement in ___ in ___ who presents with nausea and 
vomiting.

2 weeks ago the patient experienced abdominal pain while on 
vacation in ___. He was found to have 2x CBD stones causing 
cholestasis and underwent ERCP. One stone was extracted, but the 
other could not be removed. A stent was therefore placed. The 
patient felt fine for a about a week after the procedure. Then 
about a week ago he started to experience vomiting and diarrhea. 
This has persisted, and he is having several watery bowel 
movements per day. His nausea is usually better in the morning, 
but by the evening he is unable to keep food and drink down. He 
last vomited last night, nonbilious and non-bloody. No blood in 
stool, no melena. He has never experienced this before. He has 
not tried anything specific to help with his symptoms.

He initially presented to ___ where he was found to 
have ___. RUQ showed persistent of the CBD stone, but his liver 
enzymes and Tbili are within normal limits. His gallbladder was 
previously surgically removed. IVF were administered with 
improvement in his Cr by the time he came to our ED. He is 
hemodynamically stable and afebrile.

He reports eating chicken and shrimp at restaurants in ___. 
His wife did not get sick. 

 
Past Medical History:
CAD, HTN, DM. Prior coronary artery stenting, cholecystectomy  
 
Social History:
___
Family History:
Father and brother had CAD and DM  
 
Physical Exam:
___: Alert and in no apparent distress
EYES: Anicteric sclera
ENT: Ears and nose without visible erythema, masses, or trauma.  

CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended. No longer tender to palpation
MSK: Neck supple, moves all extremities
SKIN: No new rashes
NEURO: Alert, oriented, speech fluent
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 06:51AM BLOOD WBC-8.4 RBC-4.00* Hgb-12.2* Hct-37.3* 
MCV-93 MCH-30.5 MCHC-32.7 RDW-12.9 RDWSD-43.9 Plt ___
___ 06:15AM BLOOD WBC-8.4 RBC-4.10* Hgb-12.6* Hct-37.1* 
MCV-91 MCH-30.7 MCHC-34.0 RDW-12.4 RDWSD-41.4 Plt ___
___ 06:51AM BLOOD Glucose-125* UreaN-39* Creat-1.9* Na-139 
K-5.3 Cl-112* HCO3-15* AnGap-12
___ 06:15AM BLOOD Glucose-111* UreaN-22* Creat-1.6* Na-141 
K-4.8 Cl-107 HCO3-21* AnGap-13
___ 06:15AM BLOOD Phos-2.6* Mg-1.8
___ 06:15AM BLOOD ALT-10 AST-13 AlkPhos-81 TotBili-0.5
___ 06:57AM BLOOD Lactate-0.9

CT Abd:
No acute abdominopelvic process within limitations of this non 
IV contrast 
study. 
  

 
Brief Hospital Course:
___ male with a history of CAD and MI ___ s/p 3x stents, 
DM, and recent choledocholithiasis s/p stent placement in ___ 
in ___ who presents with nausea and vomiting.

ACUTE/ACTIVE PROBLEMS:
# Gastroenteritis: Presented with symptoms of vomiting and 
diarrhea and no pain more consistent with viral or possibly 
bacterial food-borne illness rather than a CBD problem. US at 
___ showed persistence of the known stone but not 
ductal dilatation, and his normal Tbili, alk phos, and 
transaminases suggest the CBD stent is patent. He had risk 
factors for food-borne illness from his vacation to ___. CT 
with oral contrast did not reveal pathology, and C. diff testing 
was negative. He was supported with IVF, and his symptoms 
improved to the point where he was able to tolerate food and 
liquid. Return precautions were discussed, and he will follow up 
with his PCP. Stenting for choledocholithiasis was performed in 
___ 2 weeks ago, so he will need repeat ERCP for stent 
removal in 4 weeks. He wanted to pursue this closer to home, but 
we provided our Advanced Endoscopy team's contact info.

___ on likely CKD: Initial Cr was 1.9, likely prerenal from 
vomiting and diarrhea. IVF were administered, and his Cr 
plateaued at 1.6. He was making urine. This may be his baseline 
kidney function. 
- Hold home lisinopril, recheck BMP with PCP before restarting

CHRONIC/STABLE PROBLEMS:
# CAD: Continued home simvastatin
- Unclear why he is not on ASA for secondary prevention
- Hold home Lisinopril 

# HTN: Continued home amlodipine

#GERD: Continue home protonix

#BPH: Continue home Flomax

***Transitional Issues***
[ ] Holding home lisinopril, recheck BMP (Cr) at follow up 
appointment
[ ] Discuss ASA for secondary prevention
[ ] Repeat ERCP in 4 weeks for stent removal (original performed 
in ___

Mr. ___ was seen and examined on the day of discharge and is 
clinically stable for discharge today. The total time spent 
today on discharge planning, counseling and coordination of care 
was greater than 30 minutes.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pantoprazole 40 mg PO Q24H 
2. amLODIPine 10 mg PO DAILY 
3. Donepezil 10 mg PO QHS 
4. Lisinopril 20 mg PO DAILY 
5. LORazepam 1 mg PO Q12H:PRN anxiety 
6. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
7. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Ondansetron ODT 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 

RX *ondansetron 8 mg 1 tablet(s) by mouth every 8 hours as 
needed for nausea Disp #*12 Tablet Refills:*0 
2.  amLODIPine 10 mg PO DAILY  
3.  Donepezil 10 mg PO QHS  
4.  LORazepam 1 mg PO Q12H:PRN anxiety  
5.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
6.  Pantoprazole 40 mg PO Q24H  
7.  Tamsulosin 0.4 mg PO QHS  
8. HELD- Lisinopril 20 mg PO DAILY  This medication was held. Do 
not restart Lisinopril until your PCP says it's okay

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastroenteritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to ___ with vomiting and diarrhea. This has 
most likely been from a condition called "gastroenteritis" 
caused by a virus or bacteria making the gut angry. We did not 
see signs of problems with your bile duct stent or other 
problems in your gut using ultrasound and a CT scan to take 
pictures. Your symptoms may take a few more days to completely 
resolve. Stick to bland foods for now to avoid making the 
diarrhea worse.

Please work with your PCP to set up an ERCP for stent removal in 
4 weeks close to home. Otherwise, out team here would be happy 
to perform the procedure if you call ___. 
 
Followup Instructions:
___